US07435837B2
To a solution of (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.5 g, 1.5 mmol) in toluene (20 mL) was added bromobenzene (0.23 g, 1.5 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.061 g, 0.075 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.125 g, 0.225 mmol), and sodium tert-butoxide (0.18 g, 1.875 mmol) and the reaction mixture was allowed to reflux 3 h. The solvent was removed in vacuo. The residue was washed with water (100 mL) and ethyl acetate (50 mL). The combined organic layers were washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 3:10) afforded (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate. Treatement of (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate with sodium azide (0.18 g, 2.78 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-N-phenyl-2,3-dihydro-1-benzofuran-7-amine. Treatment of the azide with polymer-supported triphenylphosphine (1.09 g, 4.17 mmol) generally according to the procedure described for Example 21 provided 0.042 g, (46%) of (±)-2-(aminomethyl)-N-phenyl-2,3-dihydro-1-benzofuran-7-amine as a white solid, fumarate salt. mp 216-218° C.

reactant | (±)-(7-anilino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2NC2=CC=CC=C2 | C22H21NO4S
reactant | sodium azide | 2.78 mmol, 0.18 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-N-phenyl-2,3-dihydro-1-benzofuran-7-amine | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2NC2=CC=CC=C2 | C15H14N4O
reactant | azide | [N-]=[N+]=[N-]
reactant | triphenylphosphine | 4.17 mmol, 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-2-(aminomethyl)-N-phenyl-2,3-dihydro-1-benzofuran-7-amine | 46% | NCC1OC2=C(C1)C=CC=C2NC2=CC=CC=C2 | C15H16N2O
